US07432266B2
Isocyanatoethane (0.014 mL, 0.18 mmol) was added to a solution of 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole (50 mg, 0.14 mmol) in pyridine (2 mL) and the mixture was heated at 100° C. for 16 hours. Upon cooling, water and ethyl acetate were added and the product was washed once with 0.1 N HCl, once with water and once with brine. The combined organics were dried, the solvent was removed, and the reside was purified by column chromatography on silica gel, eluting with 20% ethyl acetate in hexanes for 5 minutes, a linear gradient to 50% ethyl acetate in hexanes over 15 minutes, and then 50% ethyl acetate for an additional 10 minutes, to afford 32 mg (54%) of N,3-diethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole-1-carboxamide. LC/MS (EI) tR 4.33 (Method C), m/z 438.2 (M++1), 1H NMR (CDCl3) δ 1.0 (t, 3H), 1.4 (t, 3H), 2.9 (t, 2H), 3.0 (s, 3H), 3.4 (m, 2H), 6.5 (s, 1H), 7.0 (d, 1H), 7.1 (s, 1H), 7.4 (d, 2H), 7.5 (m, 1H), 7.8 (s, 1H), 7.9 (d, 2H), 8.4 (s, 1H).

reactant | Isocyanatoethane | 0.18 mmol, 0.014 mL | N(=C=O)CC | C3H5NO
reactant | 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole | 0.14 mmol, 50 mg | C(C)C1=NNC2=CC(=CC=C12)C1=CC=NN1C1=CC=C(C=C1)S(=O)(=O)C | C19H18N4O2S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N,3-diethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole-1-carboxamide | 32 mg, 54% | C(C)NC(=O)N1N=C(C2=CC=C(C=C12)C1=CC=NN1C1=CC=C(C=C1)S(=O)(=O)C)CC | C22H23N5O3S
